US07915250B2
To a solution of (0.05 g 0.08 mmol) 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-({[(Z)-1-(methylthio)-2-nitroethenyl]amino}methyl)azetidin-3-ol in ethanol (2 mL) was added ammonium hydroxide (0.1 mL, 0.8 mmol) and the reaction mixture was stirred at 70° C. for 16 hours. The reaction mixture was concentrated in vacuo. The crude product was purified by reverse phase preparative HPLC. The fractions were collected and the solvent was concentrated. The residue was partitioned with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate, brine and dried over anhydrous sodium sulfate. Filtration and concentration resulted in an amorphous residue, which was dissolved in methanol, and 4 N HCl in dioxane (40 μL, 0.16 mmol) was added to the solution. A white precipitate formed and was collected by vacuum filtration. The solid was washed with hexane, and dried to afford 42 mg (87%) 3-({[(E)-1-amino-2-nitroethenyl]amino}methyl)-1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-ol hydrochloride. 1H NMR (400 MHz, d4-MeOH): 7.58 (t, 0.5H), 7.44 (t, 0.5H), 7.36 (m, 1H), 7.31 (m, 1H), 7.04 (m, 1H), 6.63 (m, 1H), 3.90-4.30 (m, 4H) 3.72 (s, 2H); MS (EI) for C19H17F3IN5O4: 564 (MH+).

reactant | 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-({[(Z)-1-(methylthio)-2-nitroethenyl]amino}methyl)azetidin-3-ol | 0.08 mmol, 0.05 g | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)(O)CN/C(=C/[N+](=O)[O-])/SC)NC1=C(C=C(C=C1)I)F | C20H18F3IN4O4S
reactant | ammonium hydroxide | 0.8 mmol, 0.1 mL | [OH-].[NH4+]
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 0.16 mmol, 40 μL | O1CCOCC1 | C4H8O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 3-({[(E)-1-amino-2-nitroethenyl]amino}methyl)-1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-ol hydrochloride | 42 mg, 87% | Cl.N/C(=C\[N+](=O)[O-])/NCC1(CN(C1)C(=O)C1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)F)O | InChI=1S/C19H17F3IN5O4.ClH/c20-12-3-2-11(17(16(12)22)26-14-4-1-10(23)5-13(14)21)18(29)27-8-19(30,9-27)7-25-15(24)6-28(31)32;/h1-6,25-26,30H,7-9,24H2;1H/b15-6+;
